* DPT ring bench with the Toshiba TK6R8A08QM model (standard primitives, robust).
* Same DPT structure that converges: ideal coil current source + LS channel ON @ t=0.
* External TO-220 leads (Ld=2.5n Ls=2n Lg=4n) so loop L ~ matches the extraction.
.param VIN=80 ILOAD=32
.inc extract/capmodels/vendor/c9c16_1u_0805_std.cir
.inc extract/capmodels/vendor/c17c18_220n_0603_std.cir
.inc extract/capmodels/vendor/c21c22_10u_2220_GRM32EC72A106KE05.mod
.inc extract/capmodels/cin_hotloop.lib
.inc extract/capmodels/fets/TK6R8A08QM_G0_00_PSpice_rev1.lib

Vin vin 0 {VIN}
Lfeed vin vi 200n Rser=10m
Cbulk vi 0 940u
XCIN vi 0 Cin_hotloop
L5 vi hd 2n Rser=1m
L4 sw ld 2n Rser=1m

* HS (Toshiba) + TO-220 leads ; X = drain gate source
Ld1 hd h1d 2.5n
XHS h1d h1gg h1s TK6R8A08QM_G0_00
Ls1 h1s sw 2n
Lg1 hgg h1gl 4n
Rg1 h1gl h1gg 4
* LS (Toshiba)
LdL ld ldd 2.5n
XLS ldd lgg lss TK6R8A08QM_G0_00
LsL lss 0 2n

Iload ld 0 {ILOAD}
Rpar ld 0 100k

Vlsdrv lgg 0  PWL(0 10  0.96u 10  0.97u 0)
Vhsdrv hgg sw PWL(0 0  1.0u 0  1.01u 10)

.tran 0 1.2u 0 0.1n
.end
