***********************************************************************
*  (C) Copyright 2014 Texas Instruments Incorporated. All rights reserved.
***********************************************************************
***********************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer
********************************************************************************
*
* Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: CSD19501KCS
* Date: 01/24/2014
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2
* EVM Order Number: 
* EVM Users Guide: 
* Datasheet: SLPS478 - JANUARY 2014
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web
*
*****************************************************************************
*
* Model Usage Notes:
*
*****************************************************************************
.subckt	cgs	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+ (	0	3.09E-09	)
+ (	1	3.06E-09	)
+ (	2	3.05E-09	)
+ (	3	3.04E-09	)
+ (	4	3.03E-09	)
+ (	5	3.03E-09	)
+ (	6	3.04E-09	)
+ (	7	3.07E-09	)
+ (	8	3.10E-09	)
+ (	9	3.11E-09	)
+ (	10	3.11E-09	)
+ (	11	3.11E-09	)
+ (	12	3.11E-09	)
+ (	13	3.11E-09	)
+ (	14	3.11E-09	)
+ (	15	3.11E-09	)
+ (	16	3.10E-09	)
+ (	17	3.10E-09	)
+ (	18	3.10E-09	)
+ (	19	3.10E-09	)
+ (	20	3.10E-09	)
+ (	21	3.09E-09	)
+ (	22	3.09E-09	)
+ (	23	3.09E-09	)
+ (	24	3.09E-09	)
+ (	25	3.09E-09	)
+ (	26	3.08E-09	)
+ (	27	3.08E-09	)
+ (	28	3.08E-09	)
+ (	29	3.07E-09	)
+ (	30	3.07E-09	)
+ (	31	3.07E-09	)
+ (	32	3.07E-09	)
+ (	33	3.06E-09	)
+ (	34	3.06E-09	)
+ (	35	3.06E-09	)
+ (	36	3.06E-09	)
+ (	37	3.06E-09	)
+ (	38	3.05E-09	)
+ (	39	3.05E-09	)
+ (	40	3.05E-09	)
+ (	41	3.05E-09	)
+ (	42	3.05E-09	)
+ (	43	3.05E-09	)
+ (	44	3.05E-09	)
+ (	45	3.05E-09	)
+ (	46	3.05E-09	)
+ (	47	3.05E-09	)
+ (	48	3.04E-09	)
+ (	49	3.04E-09	)
+ (	50	3.04E-09	)
+ (	51	3.04E-09	)
+ (	52	3.04E-09	)
+ (	53	3.04E-09	)
+ (	54	3.03E-09	)
+ (	55	3.03E-09	)
+ (	56	3.03E-09	)
+ (	57	3.03E-09	)
+ (	58	3.02E-09	)
+ (	59	3.02E-09	)
+ (	60	3.02E-09	)
+ (	61	3.02E-09	)
+ (	62	3.01E-09	)
+ (	63	3.01E-09	)
+ (	64	3.01E-09	)
+ (	65	3.01E-09	)
+ (	66	3.00E-09	)
+ (	67	3.00E-09	)
+ (	68	3.00E-09	)
+ (	69	2.99E-09	)
+ (	70	2.99E-09	)
+ (	71	2.99E-09	)
+ (	72	2.99E-09	)
+ (	73	2.98E-09	)
+ (	74	2.98E-09	)
+ (	75	2.98E-09	)
+ (	76	2.98E-09	)
+ (	77	2.97E-09	)
+ (	78	2.97E-09	)
+ (	79	2.97E-09	)
+ (	80	2.96E-09	)
+ (	81	2.96E-09	)
+ (	82	2.96E-09	)
+ (	83	2.95E-09	)
+ (	84	2.95E-09	)
+ (	85	2.95E-09	)
+ (	86	2.95E-09	)
+ (	87	2.94E-09	)
+ (	88	2.94E-09	)
+ (	89	2.94E-09	)
+ (	90	2.93E-09	)
+ (	91	2.93E-09	)
+ (	92	2.93E-09	)
+ (	93	2.93E-09	)
+ (	94	2.92E-09	)
+ (	95	2.92E-09	)
+ (	96	2.92E-09	)
+ (	97	2.92E-09	)
+ (	98	2.92E-09	)
+ (	99	2.92E-09	)
+ (	100	2.91E-09	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cgs
.subckt	cgd	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+ (	0	3.01E-10	)
+ (	1	2.39E-10	)
+ (	2	2.06E-10	)
+ (	3	1.81E-10	)
+ (	4	1.56E-10	)
+ (	5	1.35E-10	)
+ (	6	1.16E-10	)
+ (	7	9.81E-11	)
+ (	8	7.98E-11	)
+ (	9	6.50E-11	)
+ (	10	5.30E-11	)
+ (	11	4.30E-11	)
+ (	12	3.50E-11	)
+ (	13	3.00E-11	)
+ (	14	2.60E-11	)
+ (	15	2.40E-11	)
+ (	16	2.30E-11	)
+ (	17	2.25E-11	)
+ (	18	2.22E-11	)
+ (	19	2.22E-11	)
+ (	20	2.22E-11	)
+ (	21	2.22E-11	)
+ (	22	2.22E-11	)
+ (	23	2.22E-11	)
+ (	24	2.22E-11	)
+ (	25	2.21E-11	)
+ (	26	2.21E-11	)
+ (	27	2.21E-11	)
+ (	28	2.21E-11	)
+ (	29	2.21E-11	)
+ (	30	2.20E-11	)
+ (	31	2.19E-11	)
+ (	32	2.18E-11	)
+ (	33	2.16E-11	)
+ (	34	2.11E-11	)
+ (	35	2.01E-11	)
+ (	36	1.83E-11	)
+ (	37	1.67E-11	)
+ (	38	1.52E-11	)
+ (	39	1.38E-11	)
+ (	40	1.25E-11	)
+ (	41	1.13E-11	)
+ (	42	1.04E-11	)
+ (	43	9.55E-12	)
+ (	44	8.85E-12	)
+ (	45	8.25E-12	)
+ (	46	7.73E-12	)
+ (	47	7.30E-12	)
+ (	48	6.91E-12	)
+ (	49	6.59E-12	)
+ (	50	6.31E-12	)
+ (	51	6.07E-12	)
+ (	52	5.87E-12	)
+ (	53	5.70E-12	)
+ (	54	5.55E-12	)
+ (	55	5.43E-12	)
+ (	56	5.32E-12	)
+ (	57	5.23E-12	)
+ (	58	5.15E-12	)
+ (	59	5.08E-12	)
+ (	60	5.01E-12	)
+ (	61	4.96E-12	)
+ (	62	4.91E-12	)
+ (	63	4.86E-12	)
+ (	64	4.82E-12	)
+ (	65	4.78E-12	)
+ (	66	4.74E-12	)
+ (	67	4.70E-12	)
+ (	68	4.66E-12	)
+ (	69	4.63E-12	)
+ (	70	4.60E-12	)
+ (	71	4.56E-12	)
+ (	72	4.53E-12	)
+ (	73	4.50E-12	)
+ (	74	4.46E-12	)
+ (	75	4.43E-12	)
+ (	76	4.40E-12	)
+ (	77	4.37E-12	)
+ (	78	4.34E-12	)
+ (	79	4.31E-12	)
+ (	80	4.28E-12	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cgd
.subckt	cds	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+ (	0	4.69E-09	)
+ (	1	3.92E-09	)
+ (	2	3.40E-09	)
+ (	3	3.03E-09	)
+ (	4	2.72E-09	)
+ (	5	2.51E-09	)
+ (	6	2.32E-09	)
+ (	7	2.16E-09	)
+ (	8	1.95E-09	)
+ (	9	1.48E-09	)
+ (	10	1.39E-09	)
+ (	11	1.34E-09	)
+ (	12	1.30E-09	)
+ (	13	1.26E-09	)
+ (	14	1.23E-09	)
+ (	15	1.23E-09	)
+ (	16	1.22E-09	)
+ (	17	1.22E-09	)
+ (	18	1.23E-09	)
+ (	19	1.24E-09	)
+ (	20	1.25E-09	)
+ (	21	1.25E-09	)
+ (	22	1.25E-09	)
+ (	23	1.24E-09	)
+ (	24	1.22E-09	)
+ (	25	1.20E-09	)
+ (	26	1.17E-09	)
+ (	27	1.14E-09	)
+ (	28	1.11E-09	)
+ (	29	1.08E-09	)
+ (	30	1.05E-09	)
+ (	31	1.02E-09	)
+ (	32	9.88E-10	)
+ (	33	9.53E-10	)
+ (	34	9.24E-10	)
+ (	35	8.96E-10	)
+ (	36	8.70E-10	)
+ (	37	8.44E-10	)
+ (	38	8.20E-10	)
+ (	39	7.97E-10	)
+ (	40	7.75E-10	)
+ (	41	7.54E-10	)
+ (	42	7.34E-10	)
+ (	43	7.13E-10	)
+ (	44	6.95E-10	)
+ (	45	6.77E-10	)
+ (	46	6.59E-10	)
+ (	47	6.42E-10	)
+ (	48	6.25E-10	)
+ (	49	6.09E-10	)
+ (	50	5.95E-10	)
+ (	51	5.80E-10	)
+ (	52	5.66E-10	)
+ (	53	5.52E-10	)
+ (	54	5.39E-10	)
+ (	55	5.29E-10	)
+ (	56	5.17E-10	)
+ (	57	5.07E-10	)
+ (	58	4.97E-10	)
+ (	59	4.88E-10	)
+ (	60	4.80E-10	)
+ (	61	4.72E-10	)
+ (	62	4.65E-10	)
+ (	63	4.58E-10	)
+ (	64	4.52E-10	)
+ (	65	4.46E-10	)
+ (	66	4.40E-10	)
+ (	67	4.35E-10	)
+ (	68	4.31E-10	)
+ (	69	4.26E-10	)
+ (	70	4.22E-10	)
+ (	71	4.18E-10	)
+ (	72	4.14E-10	)
+ (	73	4.12E-10	)
+ (	74	4.09E-10	)
+ (	75	4.06E-10	)
+ (	76	4.03E-10	)
+ (	77	4.00E-10	)
+ (	78	3.97E-10	)
+ (	79	3.95E-10	)
+ (	80	3.93E-10	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cds
.SUBCKT CSD19501KCS  1 2 3
* PARAMETER (local) DEFINITIONS SECTION
 .PARAM  ptrc1    6.50e-3  
 .PARAM  ptrc2    2.0e-5
 .PARAM  pwidthP  5.788666666666666666666666666666666666666666666667
 .PARAM  pwidth   {pwidthP*1e6}
 .PARAM  perimP   {2.1*pwidthP}
 .PARAM  perim    {perimP*1e6}
****** MODEL SUBCIRCUIT BEGINS HERE     ******************************
M1   10 11 12 12  NMOS	W={pwidthP} L=0.5u  PS={perimP} PD={perimP}
xcgd	5	10	1	3	cgd
cgs		5	8	1.2e-9
xcds	8	10	1	3	cds
DBD		3	1	DBD
LGG   	2  	5	2.1e-9
RGG   	5	11	3.4
RSB  	12	9	RTEMP 0.23166e-3
R   	9	8	RTEMP 0.23166e-3
RSP   	8	6	0.55e-3
L   	6	3	0.47e-9
RSL   	6	3	0.5
RDD   	7	10	RTEMP {2.467e-3+1.625e-3}
RDP   	4	7	0.5e-4
LDD   	1	4	0.05e-9
******************************************************************* 
.MODEL  NMOS   NMOS (
* CONTROL PARAMETERS
+ LEVEL  = 7             VERSION = 3.2         CAPMOD = 2
* DC PARAMETERS
+ NLX    = 1.74E-7       VBM    = -5           DVT0   = 2.2
+ DVT1   = 0.53          DVT2   = -0.032       U0     = 650
+ UA     = 1.4e-9        UB     = 5.0e-18      A0     = 1.0
+ AGS    = 0.0           A1     = 0.0          A2     = 1.0
+ LINT   = 0.055e-6      VOFF   = -0.859        NFACTOR= 2.0
+ ETA0   = 0.005         ETAB   = -0.07        DSUB   = 1.4
+ PCLM   = 0.25          PDIBLC1= 0.02         PDIBLC2= 0.004
+ DROUT  = 0.90          PSCBE1 = 3.0e8        PSCBE2 = 1e-6
+ PVAG   = 0.1           DELTA  = 0.0220       JS     = 0
* AC AND CAPACITANCE PARAMETERS
+ CGSO   = 1e-18       CGDO   = 1e-18        CGBO   = 1e-18
+ CJ     = 1e-18         CJSW   = 1e-18        CF     = 0
* TEMPERATURE PARAMETERS
+ TNOM   = 25            UTE    = -1.5         KT1    = -1.10
+ KT1L   = 1.0e-15       KT2    = 0.022        UA1    = 0.25e-10
+ UB1    = -0.8e-18      
* PROCE PARAMETERS
+ TOX    = 4.00e-8       XJ     = 3e-7          NCH    = 1.600e17
+ NSUB   = 1.0e16)
******************************************************************* 
.MODEL DBD D (CJO=1.00e-18 VJ=0.5 M=0.625 TNOM=25
+ FC=0.5 TT=2e-09 XTI=3.3 BV=81
+ IS=3.0e-12 N=1.045 RS=1.7e-3 TRS1=4.0e-3)
*******************************************************************
.MODEL RTEMP RES (TC1={ptrc1} TC2={ptrc2})
*******************************************************************
.ENDS CSD19501KCS
*$
*