* MCASH168SC7224_TCA01     SPICE MODEL  ( Standard Model )
*--------------------------------------------------------------------------------------------------------
* Model Generated by TAIYO YUDEN Corporation (https://www.yuden.co.jp/en/)
* Version 1.0
* TAIYO YUDEN Control No. 220601
* Copyright(c) 2016 TAIYO YUDEN CO.,LTD. All Rights Reserved.
*--------------------------------------------------------------------------------------------------------
*
* Product Description (link to TY-COMPAS)
* https://ds.yuden.co.jp/TYCOMPAS/or/detail?pn=MCASH168SC7224KTCA01&u=M
*
* Products Name : Multilayer Ceramic Capacitors
*
* Characteristics :
*     Capacitance : 0.22 [uF] , Rated Voltage : 100 [V] , TCC : X7S
*     Case Size : 1.6 x 0.8 / 0.063 x 0.031 [mm/inch] , Thickness : 0.8 / 0.031 [mm/inch]
*     (Conditions: Temperature = 25 [degC] , DC Bias Voltage = 0 [V])
*
* Frequency Range : 10kHz - 3GHz
*
* External Node Assignments :
*
*  1  o---| |---o  2
*
*--------------------------------------------------------------------------------------------------------
.SubCkt MCASH168SC7224_TCA01 1 2
****************************
C0 1 110 0.21212u
C2m 1 301 5346.3p
C21 301 302 0.50019u
Rc21 301 302 33.763
C22 302 303 0.024215u
Rc22 302 303 494.29
C23 303 304 0.080809u
Rc23 303 304 147.65
C24 304 305 0.030018u
Rc24 304 305 263.93
C25 305 306 7960.3p
Rc25 305 306 165.98
C26 306 307 388.62p
Rc26 306 307 4.2038
C27 307 308 90.324p
Rc27 307 308 17.868
C28 308 309 24.073p
Rc28 308 309 59.485
C29 309 110 18.587p
Rc29 309 110 66.767
Rp0 1 110 454.55Meg
L0 110 120 0.20584n
Lm 120 130 0.261n
L1 120 121 0.036499p
RL1 121 130 4.417
L2 120 122 0.31292n
RL2 122 130 0.40156
L3 120 123 1.8051n
RL3 123 130 28.035m
CR 120 124 0.014551u
LR 124 125 0.7602n
RR 125 130 0.22214
Rs 130 2 12.2m
****************************
.ends MCASH168SC7224_TCA01
